US03993646
A solution of 7-(2-phenoxyacetamido)-3-methyl-3-bromocepham-4-carboxylic acid (860 mg.) in dry dichloroethane (20 cc) was cooled at -40° - -50° C. and pyridine and a 10% dichloromethane solution (4.7 g.) of thionyl chloride were respectively added thereto. The mixture was stirred at -40° - -50° C. for 1 hour and then at room temperature overnight, and poured into ice water and stirred for 30 minutes. The dichloroethane layer was extracted with an aqueous sodium bicarbonate solution and the aqueous layer was acidified with phosphoric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried, treated with carbon powder and then concentrated to yield crystals (80 mg.) of 7-(2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid, m.p. 172° - 175° C.

reactant | 7-(2-phenoxyacetamido)-3-methyl-3-bromocepham-4-carboxylic acid | 860 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)(Br)C)C(=O)O)C1=O | C16H17BrN2O5S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 4.7 g | ClCCl | CH2Cl2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 20 cc | ClC(C)Cl | C2H4Cl2
product | 7-(2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid | 80 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C16H16N2O5S
